US07589117B2
4-Trifluoromethyl-N-(3,3,3-trifluoropropyl)phthalimide is prepared in a similar manner to 4-chloro-N-(3,3,3-trifluoropropyl)phthalimide described in Example 26, starting with 4-trifluoromethylphthalic anhydride, Rf=0.12, (thin layer chromatography on silica gel, eluent: ethyl acetate).

reactant | 4-chloro-N-(3,3,3-trifluoropropyl)phthalimide | ClC=1C=C2C(C(=O)N(C2=O)CCC(F)(F)F)=CC1 | C11H7ClF3NO2
reactant | 4-trifluoromethylphthalic anhydride | FC(C=1C=C2C(C(=O)OC2=O)=CC1)(F)F | C9H3F3O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Trifluoromethyl-N-(3,3,3-trifluoropropyl)phthalimide | FC(C=1C=C2C(C(=O)N(C2=O)CCC(F)(F)F)=CC1)(F)F | C12H7F6NO2
